Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Ultram
 
Attending: ___.
 
Chief Complaint:
"I've got cysts in my underarm that needed to be drained, and
I split my head open"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with a h/o IVDU (heroin; last used 7 mo
ago by report, although may have used more recently), multiple 
MRSA-positive abscesses, HCV, epilepsy, and
bipolar disorder who presents to the ___ ED from ___ urgent care for fevers and right axialla induration
concerning for an abscess. Pt also had a fall one day ago, and a
suicide attempt two days ago. Pt reports that she has had
"trouble" with her sister over the past few weeks. Pt asked
sister for $100 that sister had borrowed from her, but sister
refused to pay her back. Pt then threatened to tell sister's
___ that sister is a prostitute and is HIV-positive, as
sister had not told her boyfriend and "that's a federal offense.
She could be locked up for [not disclosing her HIV status.]" Pt
was also upset with sister for telling pt's fiance lies about 
her
relationship. She and her sister had a several day long "text
war." Pt and fiance began to have lots of arguments regarding
what sister said. Sister eventually admitted that she was lying
via a text, which pt showed to her fiance. Regardless, pt
continued to have lots of arguments with sister and fiance. Pt
reportedly repeatedly tried to stop the fighting, but sister and
fiance persisted. Pt states "I could not take the fighting... I
just wanted to be done with all the pain." On ___ night, 
she
reports impulsively deciding to kill herself. She felt hopeless
at the time. There was a 20min lag between when she decided to
kill herself and when the act was actually performed. During 
this
lag time, she states "I was waiting for my fiance to fall
asleep....I was calm. I felt at peace with my decision." When
fiance was asleep, she went to the closet and hanged herself 
from
clothes bar with one of her fiance's neck ties. Pt states that
while she was hanging, she was not scared, but "felt at peace,
because I was going to be done with all the pain." She reports
hanging for 2.5-3 minutes, when the clothes bar broke. She does
not recall what happened at this time, and states "I may have
lost consciousness. I'm not sure." Pt reports following up with
her psychiatrist, who reportedly "told me I'd be ok"
(psychiatrist reports never being contacted, see collateral note
in OMR). Pt initially reports she has not been suicidal since 
her
attempt and is not suicidal now, though later admits to still
being "really depressed" and having on-and-off thoughts of
suicide. Denies current intent or plan. She is unable to report
on anything she is looking forward to, or any reasons to keep
living, and agrees that "maybe it would be better" if she was
hospitalized.

Of note, pt reports worsening depression since undergoing right
BKA ___ months ago for compartment syndrome. (Per psychiatrist,
after drug overdose secondary to IVDU.) "I just woke up and my
leg was really painful. I went to the doctor, and they sent me
for emergency surgery....They told me it could have been a blood
clot. I have no idea what caused it." Pt says she's had trouble
dealing with this amputation. "It's hard getting around with 
only
one leg." She states that she came into the hospital today
because yesterday she fell on a driveway while she was trying to
go somewhere. She states that construction work is being done on
her street, and the area she was walking on was not pathed, "it
had lots of big rocks." Because of the right BKA, she was 
walking
with crutches. She fell face forward and hit her head and hurt
her right leg. "I split my head open.... I knew I should have
come to the hospital, but my head was hurting so bad, and I was
tired, so I went home."

Regarding change in mental status, she was first noted to be 
"somnolent" on ___ in the ED. In the ED "Patient's abscess 
was treated with drainage, wick changes, and antibiotics. She 
continued to receive her outpatient medications and remained in 
good behavioral control. She reported AH with
boyfriend and family members voices asking her questions. She 
feels that the voices are scary, but did not find them to be 
persecutory. She also spoke back to them. She was also noted to 
be somnolent at times, and sedating medications were held." Her 
Seroquel was increased by 200mg to a total of 600mg, and her 
Lithium was increased to 1050mg from 900mg. Upon arrival to the 
unit, she was interactive, but still showed signs of worsened 
mental status in that she had difficulty with attention (could 
not state WORLD or MOYB).
 
Past Medical History:
PAST MEDICAL HISTORY: 
- Hepatitis C Virus
- R leg compartment syndrome
- ___ s/p Right BKA
- Impaired glucose tolerance
- Hyperlipidemia
- Chronic intractable pain
- h/o MRSA-positive abscesses
- epilepsy
- Migraine
- Medullary Sponge kidney
- Carpal Tunnel syndrome
- Bipolar disorder 
- h/o cervical dysplasia
- PTSD (chronic/delayed; related to home break-in that caused
partner to be in coma)
-PCP:  ___, MD (___)

PAST PSYCHIATRIC HISTORY: 
-Diagnoses: Bipolar type 2, Depression, Anxiety, ADHD
-Prior Hospitalizations: "A lot. I don't know how many....My mom
put me in mental hospitals since I was ___ years old. That's why
I'm happy she's dead!"
-History of assaultive behaviors: denies
-History of suicide attempts or self-injurious behavior: Pt
reports multiple SAs in past since adolescence, total number
unknown. Reports OD attempt ___ not leading to
hospitalization, also OD attempt via "full bottle of
amitriptyline and Clonidine" ___eing
in a coma, reportedly hospitalized at ___. Can not recall
other SAs. +SIB via cutting of left forearm, last cutting 
episode
6mo ago. "I do it just because." Pt did not want to go into more
details.
-Prior med trials: "I've been on the same meds for years and
years."
-Therapist: none.
-Psychiatrist: Dr. ___, ___, ___ 


SA:
-ETOH: "I never drink"
-Tobacco: 1 pack/day ___ (since ___ ___)
-MJ/LSD/Ecstasy/Mushrooms: denies
-Cocaine/Crack/Amphetamines: denies
-Opiates: heroin IVDU. Last use was 7mo ago.
-Benzos: denies
 
Social History:
- Born and raised in ___. Would not specify where.
Parents are both deceased. Did not get along with her mother, 
who
was a heroin addicit. Does not get along with sister, who is 
also
a heroin addict. Does not have relatioship with extended family.
"My mom's side of the family hasn't talked to me since my mother
died." Fiancee is a source of support. Has 2 children (ages ___ 
and
___). Cares for her partner who is recovering after traumatic
injuries and coma. Rarely goes outside since right BKA, only
___.
- Housing: Lives in an apartment on ___. A source 
of
stress. Currently trying to move out.
- Education: High school diploma.
- Employment/Income: Unemployed since right BKA ___ ago.
Previously worked "whever I could get ___, the
airport, a bakery, ___ Donuts." Currently receives SSDI.
- Spiritual: Catholic

 
Family History:
- Father died at age ___ (when pt was ___) from cancer, unknown
type
- Mother died in ___ from heroin o/d. h/o arthrtis,
hyperlipidemia, HTN.
- Psych hx on mother's side includes depression, bipolar,
anxiety. Grandmother had SA.
- Sister, living. Heroin addict.

 
Physical Exam:
Neuropsychiatric Examination:
ROS:
+ vision changes, is unable to describe exactly, states she can
see the words, but they don't make sense. + headache- both since
hanging attempt, +soreness in right axilla 
Denies Weakness, Numbness, Seizures, SOB, Chest pain, Abdominal
pain, N/V, Diarrhea/Constipation, Melena/Hematechezia,
Dysuria/Polyuria, Joint/Limb/Back pain, Swelling
 
PHYSICAL EXAMINATION:
VS:  BP: 95/56  HR: 87  temp: 98.4   resp: 16  O2 sat: 98%  
height: 5'7''  weight: 134lbs
 
MENTAL STATUS EXAM:
--appearance: disheveled grooming, malodorous with fair eye
contact, eyes frequently closing during interview
--behavior/attitude: cooperative; exhibited no PMR, PMA
--speech: slurred speech, normal rate, tone, and volume 
--mood (in patient's words): "depressed" 
--affect: constricted, mood congruent, drowsy
--thought content (describe): focused on recent stressors such 
as
medical problems, relationships with sister and fiancé 
--thought process: linear, logical 
--perception: currently without AVH, paranoia or delusions 
--SI/HI: + passive SI, without plan or intent, Denies HI
--insight: limited
--judgment: poor
 
COGNITIVE EXAM:
--orientation: alert to person, place, situation, date ___
--attention/concentration: unable to recite WORLD backwards,
stated "LDORW," when asked to recite months of year backwards,
"___, ___, ___, ___.. what was the question again?" after her
eyes had closed  
--memory (ball, chair, purple): immediate intact ___ and remote
intact ___
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: able to recall the president on ___ 
--proverbs: provided accurate interpretations of "look before
leap,"= "pay attention to what you are doing" 
--similarities/analogies: understood analogy of "apples to
oranges" = "round and fruit" 

PE:
General: thin, in hospital ___, appears disheveled, in no
distress, right stump crossed over left leg, sitting in
wheelchair, appears very sedated 
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear, top 
dentures
yellow, adentate on bottom
Neck: Supple, trachea midline.  
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light
bilaterally. 
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
Motor: ___ stregnth in upper and lower extremities b/l. 
Sensation: equal to light touch b/l 
Tremor: none
Tone: wnl
Gait: patient using wheelchair 

 
Pertinent Results:
Cbc- wnl except Hbg 11.7, hct 35.6
Chem- wnl
Lithium <0.2
Serum tox- ___ at 16:05 -neg
UA- neg
Urine tox- ___ at 6:30am +benzos, opiates, methadone,
amphetamines

CT ___: No intracranial process noted (wet read)

Could not do CTA as could not place large enough IV
Put in order for CXR
 
Brief Hospital Course:
Psychiatric: Patient was admitted to unit after 3 days in the ED 
for a recent hanging attempt. Upon arrival to the floor, she was 
confused, and therefore any sedating medications were held. She 
was placed on her outpatient medication list that was confirmed 
in the ED. The only changes in medications were increasing 
Seroquel to 600mg XR (from 400mg), and increasing ___ from 900 to 
1050mg as suggested in the ED. Medications have been held since 
arrival to the floor due to her change in mental status. She was 
unable to participate in any interview due to her degree of 
confusion. She is able to state her name, but is unable to state 
location or attend to conversation. 

Medical: 
Patient was treated in the ED for abscesses under her axilla. 
While there, they were drained, and she was started on 
Clindamycin. Upon being seen this morning, the patient was 
difficult to arouse and intattentive. Her vitals were initially 
98.6 88/57 96 with normal sat. She was given a liter of NS, and 
following that liter, her vitals were 90/49, 82 97%. She was 
slurring her words, and would only stay awake to answer a few 
words at a time. In the setting of her acute MS change, we 
obtained a stat head CT (that was negative). A brief neuro exam 
was non-focal. She has been afebrile throughout. Plan is for 
CXR, and possible CTA, but current IV gage is not large enough. 
Labs from ED were all wnl. Currently received 2L NS fluid and is 
not taking in good po. Is currently not medically stable in 
order to remain on inpatient psychiatry. Transferred arranged to 
medicine at this time. 

Social: No social components addressed at this time or 
additional information obtained due to the patients degree of 
delirium. Please see collateral notes from the ED

Legal: ___
Medications on Admission:
- Levetiracetam 1000mg (Keppra) PO 1 tab tid
- Ampthetaime-Dextroamphetamine (Adderall) 10mg PO 1 tab qd
- Ensure 1 can/day
- Clonazpam 2mg PO 1 tab tid
- Quetiapine 400mg XR PO 1 tab QHS
- Lithim Carbonate 300mg PO 3 tabs QHS
- Venlafaxine (Effexor XR) 150mg PO, 1 tab qd
- Methadone 10mg PO 2 tabs tid

 
Discharge Medications:
(all medications were held today due to confusion)
- Levetiracetam 1000mg (Keppra) PO 1 tab tid
- Ampthetaime-Dextroamphetamine (Adderall) 10mg PO 1 tab qd
- Ensure 1 can/day
- Clonazpam 2mg PO 1 tab tid
- Quetiapine 600mg XR PO 1 tab QHS
- Lithim Carbonate 1050mg QHS
- Venlafaxine (Effexor XR) 150mg PO, 1 tab qd
- Methadone 10mg PO 2 tabs tid
- Clindamycin 300mg q6h (started in ED)
- Tylenol ___ q4h:prn pain
- Aluminum-Mag Hydrox-Simethicone 30ml PO q4h:prn heartburn
- Milk of Mag 30ml po q8h: prn heartburn
- Nicotine Polacrilex 1 stick po q1h:prn cravings
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy, 
axilla abscess s/p drainage in ED, 
bipolar 2 disorder, depressed vs substance-induced mood s/p 
recent hanging attempt
PTSD, 
opiate abuse/dependence
epilepsy, 
HCV.
S/p right BKA
 
Discharge Condition:
Encephalopathic, Hypotensive
 
Discharge Instructions:
You are being discharged to medicine as you were too confused to 
remain safely on the psychiatric. When you are cleared by 
medicine, you will be transferred back to psychiatry for 
additional care
 
Followup Instructions:
___